US05274116
(1-Amino-1H-pyrrol-2-yl)-(3-methyl-2-thienyl)methanone
To a solution consisting of 2-[2-[(3-methyl-2-thienyl)carbonyl]-1H-pyrrol-1-yl]-1H-isoindole-1,3(2H)dione (11.5 g) in DMF (30 ml) was added 40% methylamine (aq., 34.0 ml) solution at room temperature. The reaction mixture was stirred at ambient temperature for 3.5 hours, then poured into water and ethyl acetate. The layers were separated and the aqueous phase was extracted thrice with EtOAc. The combined organics were washed with water, brine, and dried (MgSO4). Filtration and concentration gave the crude product. Purification via preparative HPLC (silica gel, 2:1 heptane/EtOAc), followed by crystallization from ether/pentane afforded 5.6 g of the product as a solid, m.p. 42°-44° C.

reactant | 2-[2-[(3-methyl-2-thienyl)carbonyl]-1H-pyrrol-1-yl]-1H-isoindole-1,3(2H)dione | 11.5 g | CC1=C(SC=C1)C(=O)C=1N(C=CC1)N1C(C2=CC=CC=C2C1=O)=O | C18H12N2O3S
reactant | methylamine | 34.0 ml | CN | CH5N
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | (1-Amino-1H-pyrrol-2-yl)-(3-methyl-2-thienyl)methanone | 5.6 g | NN1C(=CC=C1)C(=O)C=1SC=CC1C | C10H10N2OS
